US07034015B2
{2-Chloro-4-[(2-{[(tetrahydro-2H-pyran-2-yloxy)propoxy]methyl}phenyl)amino]phenyl}(2-methylphenyl)methanone (Compound 181)
The reaction and work up was conducted as described in the preparation of compound 149. Starting materials were compound 425 (2.6 g, 7.9 mmol) in 15 mL dry 1,4-dioxane, (4-amino-2-chlorophenyl)(2-methylphenyl)methanone (2.14 g, 8.7 mmol) (disclosed in WO 01/42189 Al), rac-BINAP (0.22 g, 0.35 mmol), Pd2(dba)3 (0.16 g, 0.17 mmol) and Cs2CO3 (3.9 g, 12.0 mmol). The crude product was purified by flash chromatography using EtOAc/petroleum ether 1:3 as the eluent to afford the title compound as a yellow oil.

reactant | (4-amino-2-chlorophenyl)(2-methylphenyl)methanone | 8.7 mmol, 2.14 g | NC1=CC(=C(C=C1)C(=O)C1=C(C=CC=C1)C)Cl | C14H12ClNO
reactant | rac-BINAP | 0.35 mmol, 0.22 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | Cs2CO3 | 12.0 mmol, 3.9 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.17 mmol, 0.16 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | {2-Chloro-4-[(2-{[(tetrahydro-2H-pyran-2-yloxy)propoxy]methyl}phenyl)amino]phenyl}(2-methylphenyl)methanone | ClC1=C(C=CC(=C1)NC1=C(C=CC=C1)COCCCOC1OCCCC1)C(=O)C1=C(C=CC=C1)C | C29H32ClNO4
